US06992087B2
Preparation of N-(3,4-dihydro-2H-thiochromen-4-yl)-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3,4-dihydro-2H-thiochromen-4-ylamine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.71, 7.30, 7.15, 7.05, 5.44, 4.51, 3.17, 2.98, 2.68, 2.64, 2.56, 2.14, 1.31; HRMS (FAB) calcd for C17H21N3S+H 300.1534, found 300.1532.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 3,4-dihydro-2H-thiochromen-4-ylamine | S1CCC(C2=CC=CC=C12)N | C9H11NS
product | N-(3,4-dihydro-2H-thiochromen-4-yl)-3,6-diethylpyrazin-2-amine | S1CCC(C2=CC=CC=C12)NC1=NC(=CN=C1CC)CC | C17H21N3S
